US04436549
To a solution of 1.71 g of 2-amino-5-(1,1-dimethylethyl)-6H-1,3,4-thiadiazine and 1.01 g triethylamine in 18 ml dioxane was added 2.11 g of 2,6-dimethoxybenzoyl chloride. The reaction mixture was stirred at room temperature for 3 hours and poured into 100 ml water. The solid was collected and recrystallized from ethanol. The second crop of material provided 0.43 g of N-[5-(1,1-dimethylethyl)-6H-1,3,4-thiadiazin-2-yl]-2,6-dimethoxybenzamide. mp=175°-177° C.

reactant | 2-amino-5-(1,1-dimethylethyl)-6H-1,3,4-thiadiazine | 1.71 g | NC=1SCC(=NN1)C(C)(C)C | C7H13N3S
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethoxybenzoyl chloride | 2.11 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | water | 100 ml | O | H2O
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | N-[5-(1,1-dimethylethyl)-6H-1,3,4-thiadiazin-2-yl]-2,6-dimethoxybenzamide | 0.43 g | CC(C)(C)C1=NN=C(SC1)NC(C1=C(C=CC=C1OC)OC)=O | C16H21N3O3S
